Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Labetalol / Acetaminophen / Tylenol
 
Attending: ___.
 
Chief Complaint:
fibroids
 
Major Surgical or Invasive Procedure:
Uterine Artery Embolization
Diagnostic Hysteroscopy

 
History of Present Illness:
Ms. ___ is a ___ year old G2P1 who presented to the hospital 
for management of her fibroid uterus. She has undergone several 
hysteroscopies in the past for fibroids. On ___, she underwent 
uterine artery embolization. She was then admitted to the GYN 
service with plan for diagnostic hysteroscopy and possible 
myomectomy. 
 
Past Medical History:
 OB Hx: G2P1 
G1- SAB
G2- ___ SVD 7#
 GYN Hx: fibroids,  hysteroscopy x6 D&C x6, had abnormal Pap at
age ___, normal paps since, denies STI
 PMH: HTN
 PSH: D&C x6
 Meds: HCT, iron, progesterone
 Allergy: Tylenol (anaphylaxis, labetolol (anaphylaxis)
 Soc Hx: ___
Family History:
N/A
 
Physical Exam:
PHYSICAL EXAM ON ADMISSON
Vitals on floor: ___ Temp: 98.2 PO BP: 133/84 HR: 102
RR: 18 O2 sat: 94% O2 delivery: RA Dyspnea: 0 RASS: -1 Pain
Score: ___ Pedal Pulses: Left DPP: + Left PTP: + Right DPP: +
Right PTP: + 
___ Temp: 98.7 PO BP: 122/81 HR: 107 RR: 19 O2 sat: 
97%
O2 delivery: 2LNC 

Ins/Outs:
___ 2156 Urine Amt: 30ml 
___ Urine Amt: 40ml 

General: NAD, sleeping comfortably in bed, groggy and drowsy on
exam, A&Ox3
CV: RRR
Lungs: LCTAB, no respiratory distress
Abd: soft, mildly tender diffusely in abdomen, no
rebound/guarding, nondistended, right groin dressing clean, dry,
intact, no surrounding erythema/induration
GU: foley in place draining clear urine; pad clean without any
spotting
Extremities: no calf tenderness/erythema

PHYSCIAL EXAM ON DISCHARGE
Vitals: ___ 1114 Temp: 99.2 PO BP: 136/80 L Lying HR: 82 
RR:
18 O2 sat: 92% O2 delivery: RA 
___ Total Intake: 1204ml PO Amt: 220ml IV Amt Infused: 
984ml

___ 1253 Urine Amt: 150 urine  
PE:
Gen: NAD, resting comfortably in hospital bed. 
CV: RRR
Pulm: LCTAB
Abd: nondistended, positive bowel sounds, appropriately tender 
to
palpation, no rebound/guarding
GU:  pad with minimal spotting 
Ext: BLE nontender, nonedematous 

 
Pertinent Results:
___ 11:35AM BLOOD WBC-10.6* RBC-4.19 Hgb-6.9* Hct-25.9* 
MCV-62* MCH-16.5* MCHC-26.6* RDW-20.4* RDWSD-43.5 Plt ___
___ 11:35AM BLOOD Glucose-106* UreaN-18 Creat-0.8 Na-137 
K-4.2 Cl-97 HCO3-26 AnGap-14
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing uterine artery embolization with ___. She was 
admitted to the gynecology service that night in preparation for 
a diagnostic hysteroscopy the next morning. Please see the 
operative report for full details.

*) Postoperative Course
Her post-operative course was uncomplicated. Immediately post-op 
from the UAE, her pain was controlled with a dilaudid PCA. 
Acetaminophen was not given due to her allergies to 
acetaminophen.  Her course was complicated by a foley that was 
not draining well. The foley was flushed and readjusted and 
later started to drain appropriately. The next morning, she 
underwent an uncomplicated diagnostic hysteroscopy. Her foley 
was removed in the operating room, and she later that day voided 
spontaneously. In the afternoon after the hysteroscopy, she was 
tolerating a regular diet, voiding spontaneously, ambulating 
independently, and pain was controlled with oral medications. 
She was then discharged home in stable condition with outpatient 
follow-up scheduled.

*)hypertension
She had normal blood pressures in the hospital. She was 
continued on her hydrochlorothiazide and labetalol. 

 
Medications on Admission:
Acetaminophen
Labetalol
Hydrochlorothiazide 
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*50 Capsule Refills:*1 
2.  Naproxen 500 mg PO Q12H:PRN Pain - Severe 
Take with food, may cause upset stomach 
RX *naproxen 500 mg 1 tablet(s) by mouth twice a day Disp #*50 
Tablet Refills:*1 
3.  Ondansetron 4 mg PO Q8H:PRN nausea 
RX *ondansetron HCl 4 mg 1 tablet(s) by mouth Q8hr Disp #*50 
Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Severe 
Do not drink and drive. may cause sedation. partial fill upon 
request 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4hr Disp #*40 Tablet 
Refills:*0 
5.  Polyethylene Glycol 17 g PO DAILY 
Hold for loose stools 
RX *polyethylene glycol 3350 17 gram/dose 17 g powder(s) by 
mouth Daily Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fibroid uterus 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the gynecology service after your 
procedure. You have recovered well and the team believes you are 
ready to be discharged home. Please call Dr. ___ office 
with any questions or concerns. Please follow the instructions 
below.

Uterine artery embolization
*You will experience some pain and nausea after this procedure. 
it is important to take your naproxen every 12 hours as needed 
for pain. You can also take the oxycodone for pain every 4 hours 
as needed for severe pain. You were also given a prescription 
for Zofran which you can take every 8 hours if you are having 
nausea. 

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 4 
weeks
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.
To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.
 
Followup Instructions:
___